US06197716B1
40 g of 4-chloro-3,5-dinitro-benzotrifluoride and 47 g of toluene are placed in an agitator autoclave, and the catalyst suspension is flushed in with 4 g of water. Hydrogenation subsequently takes place at a temperature of 100° C. and at a hydrogen pressure of 5 bar. When the hydrogen uptake is complete, the autoclave is cooled and rendered inert with nitrogen. The catalyst is filtered off and washed with toluene. After working up by distillation, 29.8 g of 3,5-diamino-4-chloro-benzotrifluoride (yield 95.8% of theory) are obtained. Elementary analysis:

reactant | 4-chloro-3,5-dinitro-benzotrifluoride | 40 g | ClC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C7H2ClF3N2O4
solvent | toluene | 47 g | C1(=CC=CC=C1)C | C7H8
product | 3,5-diamino-4-chloro-benzotrifluoride | 29.8 g, yield 95.8% | NC=1C=C(C=C(C1Cl)N)C(F)(F)F | C7H6ClF3N2
